Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Dizziness, nausea, vomiting 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F h/o DM, prior CVA, CAD s/p CABG, hyperlipidemia, 
recurrent UTIs, mild dementia, sent in from assisted living with 
___ vertigo and N/V, inability to tolerate POs. No fevers, 
dysuria or other ROS. EKG with V2 flattening. Unclear on timing 
of symptoms. Patient describes room spinning, nausea, vomiting. 
Only unable to tolerate POs on day of admission. Denies fever, 
chills. No mental status changes. On keflex for UTI prevention, 
denies dysuria.  
Denies headache, sinus tenderness, rhinorrhea or congestion.  
.  
In the ED, initial vs were: T98.9 HR73 BP183/61 RR18 100% on RA. 
Answering appropriately, AOx3, exam significant for exam L 
nystagmus and (TM cloudiness bilaterally). No diplopia, 
tinnitus. ECG showed T wave flattening in lead 2, cardiac 
enzymes negative. CXR without acute process, CT head with no 
acute intracranial abnormality. Paranasal sinus disease appears 
mild but an air-fluid level in a left ethmoidal aircell suggests 
acute disease. Given zofran 2mg IV x 1, 2L IVF. Vitals on 
transfer were T98.4, HR84, BP126/70, RR19, 97% on RA.  
.  
On the floor, patient was able to transfer/walk to bed without 
dizziness and nausea had improved.  
.  
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denied cough, shortness of breath. Denied chest pain or 
tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias.  
.  

 
Past Medical History:
1. Hyperlipidemia. On Lipitor.  
2. Type 2 diabetes. HbA1C ___.  
3. Hypertension, treated with lisinopril.  
4. Osteopenia, history of fracture. Fosamax without  
complaints.  
5. Status post CVA, ___. Right cerebral artery CVA, embolism.  
Recent increasing left-sided weakness, walker. Negative MRA.  
6. Bladder urgency treated with Imipramine. History of  
recurrent UTI on abx prophylaxis.  
7.? Neuropathy, left leg pain.  
8. GERD, treated with Prevacid.  
9. Recurrent falls. Has had mild injuries in the past  
including  
rib fractures. No recent falls.  
10. Short-term memory disorder. ?Age related versus Alzheimer's. 
 
11. History of mildly abnormal liver function.  
12: ___ Coronary Artery Bypass Graft x 4 (Left internal 
mammary  
artery to left anterior descending, Saphenous vein graft to  
Diagonal, Saphenous vein graft to Ramus, Saphenous vein graft to 
 
Obtuse Marginal)  
13. Iron deficiency anemia  

 
Social History:
___
Family History:
  
Family History: (per last discharge summary)  
Father had afib and CVA in ___.  
Two cousins with colon cancer.  

 
Physical Exam:
Vitals: T 97.6F, HR 74, BP 180/68, RR 16, O2 sat 95% RA  
Orthostatics: lying -HR 74, BP 180/68  
sitting HR 80, BP 168/62  
standing HR 80, BP 174/75  
General: Alert & oriented x 2 (time was ___ no acute 
distress, pleasant demeanor  
HEENT: Sclera anicteric, dry MM, OP with notable thrush but 
otherwise clear. Otoscopic exam repeated; mild cerumen present 
bilaterally, cloudy TM on left.  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: ___ upper extremity weakness as compared to ___ right 
sided UE strength, ___ bilateral ___ strength, sensation in tact 
over all extremities, face and neck. ___ maneuver 
remarkable left sided nystagmus. PERRLA, EOMI. FNF testing in 
tact.  
.  

 
Pertinent Results:
Admission Labs:
___ 08:40PM BLOOD WBC-9.1 RBC-4.59 Hgb-13.6 Hct-39.6 MCV-86 
MCH-29.6 MCHC-34.3 RDW-13.2 Plt ___
___ 08:40PM BLOOD Neuts-78.1* Lymphs-16.1* Monos-4.0 
Eos-1.2 Baso-0.6
___ 08:40PM BLOOD ___ PTT-21.5* ___
___ 08:40PM BLOOD Glucose-200* UreaN-22* Creat-1.1 Na-136 
K-5.3* Cl-99 HCO3-22 AnGap-20
___ 08:40PM BLOOD ALT-22 AST-38 CK(CPK)-58 AlkPhos-71 
TotBili-0.4
___ 04:35AM BLOOD CK(CPK)-44
___ 08:40PM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 04:35AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 09:02PM BLOOD Lactate-1.9
.
Discharge Labs:
___ 04:35AM BLOOD WBC-8.9 RBC-4.20 Hgb-12.6 Hct-36.9 MCV-88 
MCH-30.0 MCHC-34.1 RDW-13.3 Plt ___
___ 04:35AM BLOOD Neuts-72.1* Lymphs-17.9* Monos-5.8 
Eos-3.4 Baso-0.8
___ 04:35AM BLOOD Plt ___
___ 04:35AM BLOOD Glucose-82 UreaN-16 Creat-1.0 Na-143 
K-3.6 Cl-105 HCO3-26 AnGap-16
.
CHEST (PA & LAT) ___:
AP and lateral views of the chest show no focal consolidation.  
There is no pleural effusion or pneumothorax. Cardiac, 
mediastinal, and hilar contours are unchanged, redemonstrating 
post-surgical findings after coronary arterial bypass graft as 
well as atherosclerotic calcification of the aortic arch.   
IMPRESSION: Normal chest. 
.
CT HEAD W/O CONTRAST  ___:
There is no evidence of hemorrhage, edema, or mass effect. 
Ventricles and sulci are enlarged, consistent with parenchymal 
volume loss. Encephalomalacia is redemonstrated involving the 
right cerebellar hemisphere, unchanged from the comparison 
study. Periventricular white matter hyperdensities are 
bilateral, reflecting the sequela of chronic microvascular 
ischemia. The included paranasal sinuses reveal mild mucosal 
thickening as well as an air-fluid level seen in the ethmoidal 
air cells. The mastoid air cells are clear.   
IMPRESSION: No acute intracranial abnormality and paranasal 
sinus disease as above. 
.

 
Brief Hospital Course:
___ y/o lady with DM, prior CVA, CAD s/p CABG, hyperlipidemia, 
recurrent UTIs, mild dementia, sent in from assisted living with 
___ days of vertigo and nausea/vomitting, inability to tolerate 
oral intake.  
.  
# Dizziness/Nausea/Vomiting: History and exam most consistent 
with vertigo with left nystagmus on ___ test 
consistent with benign paroxysmal possitional vertigo (BPPV). 
Could be secondary to aricept and provigil and therefore they 
were discontinued. No evidence of ischemia/infection/CVA. She 
had a normal CXR and CT head did not show any acute intracranial 
abnormalities.  Orthostatics negative after IVF. Tolerated food 
intake prior to leaving.  Patient was evaluated by physical 
therapist who recommended home ___.
.  
# Diabetes Mellitus type 2: Her home medications were held 
overnight with sliding scale insulin coverage.  They were 
restarted prior to dischage.  
.  
#. CAD s/p CABG and history of stroke: Presentaion not 
consistent with myocardial ischemia and she was ruled out with 
negative cardiac enzymes.  She was placed on telemetry which did 
not show any abnormalities.  Her home regimen of lisinopril, 
metoprolol, simvastatin, aggrenox/aspirin was continued.
.  
#Thrush - She was started on four days of Nystatin S&S.  
.  
# Recurrent Urinary Tract Infection: No active symptoms.  She 
was contined on outpatient Keflex prophylaxis.  
.  
# Osteopenia:  She was continued on weekly fosamax, Ca, vit D 
supplementation.  
.  
# Dementia:  Aricept was discontinued as above.
. 
# Iron deficiency anemia  She was continued on Fe 
supplementation  
.
# Prophylaxis: Subcutaneous heparin, PPI, bowel regimen  
.  
# Contact: Daughter, ___ ___, h ___  
.  

 
Medications on Admission:
CEPHALEXIN 250 mg Capsule daily  
ALENDRONATE - 70 mg Qweek  
AMLODIPINE - 5 mg daily  
DIPYRIDAMOLE-ASPIRIN [AGGRENOX] - 25 mg-200 mg Cap BID  
DONEPEZIL [ARICEPT] - 5mg every other day  
GLIPIZIDE - 20 mg Tablet BID  
LISINOPRIL - 40 mg Tablet daily  
METFORMIN - 1000 QAM, 500 mg QPM  
METOPROLOL TARTRATE - 100 mg BID  
MODAFINIL [PROVIGIL] - 200 mg Tablet QAM  
MULTIVITAMINS - 1 daily  
OMEPRAZOLE - 20 mg daily  
PHENAZOPYRIDINE - 200 mg BID prn UTI  
SIMVASTATIN - 20 mg daily  
ASCORBIC ACID - ___ mg BID  
ASPIRIN - 81 mg daily  
CALCIUM CITRATE-VITAMIN D3 [CALCIUM CITRATE + D] - 315 mg-200 
unit Tablet - 2 tabs BID  
FERROUS SULFATE - 325 mg every other day  
LACTOBACILLUS ACIDOPHILUS [ACIDOPHILUS] -  
SENNA -  
SIMETHICONE  
THIAMINE HCL 100 mg daily  

 
Discharge Medications:
1. Cephalexin 250 mg Capsule Sig: One (1) Capsule PO Q24H (every 
24 hours).  
2. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO EVERY OTHER DAY (Every Other Day).  
4. Nystatin 100,000 unit/mL Suspension Sig: Five (5) ML PO QID 
(4 times a day) for 5 days.
Disp:*100 ML(s)* Refills:*0*
5. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
8. Metformin 500 mg Tablet Sig: Two (2) Tablet PO QAM (once a 
day (in the morning)).  
9. Metformin 500 mg Tablet Sig: One (1) Tablet PO QPM (once a 
day (in the evening)).  
10. Metoprolol Tartrate 50 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).  
11. Glipizide 10 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
12. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
13. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
14. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
15. Dipyridamole-Aspirin 200-25 mg Cap, Multiphasic Release 12 
hr Sig: One (1) Cap PO BID (2 times a day).  
16. Calcium Citrate + D 315-200 mg-unit Tablet Sig: Two (2) 
Tablet PO twice a day.  
17. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QWEEK ().  
18. Ascorbic Acid ___ mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
19. Simethicone 80 mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO QID (4 times a day) as needed for gas/bloating.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Benign Paroxysmal Positional Vertigo (BPPV)
Oral thrush

 
Discharge Condition:
Asymptomatic, afebrile and hemodynamically stable.
Alert and oriented to person and place.  Not oriented to date 
which is her baseline.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ with 
dizziness.  Your symptom is most likely due to benign paroxysmal 
positional vertigo (BPPV).  You were taking a medication called 
Aricept which may contribute to dizziness.  You might have been 
dehydrated which could have contributed to the dizziness.  There 
was no signs/evidence of major infection, heart problem or 
stroke.  

The following changes were made to your medications:
STOP Aricept
START oral nystatin for thrush

Please keep all of the follow up appointments.
 
Followup Instructions:
___